US06878722B2
Step 78a: Preparation Pyridine-2-carboxylic acid (2-acetyl-5-methoxy-phenyl)-amide
To a suspension of 2-picolic acid (3.73 g, 30.3 mmol) and 2-amino-4-methoxybenzophenone (5.0 g, 30.3 mmol) at −30° C. dissolved in pyridine (150 mL) was added POCl3 (3.7 mL, 45.4 mmol) in 5 min. the reaction mixture was stirred for 3 hr at the temperature, and stirred at rt overnite. The reaction mixture was poured into cold water and extracted with EtOAc (3×). The combined extract was dried to provide the product (7.67 g, 93%): 1H NMR (methanol-d4) δ ppm 2.65 (s, 3H), 3.92 (s, 3H), 6.78 (m, 1H), 7.60 (m, 1H), 8.00 (m, 1H), 8.06 (m, 1H), 8.21 (d, J=7.63 Hz, 1H), 8.59 (t, J=2.29 Hz, 1H), 8.76 (d, J=3.97 Hz, 1H). LC-MS (retention time: 1.56, Method D), MS m/z 271 (M++1).

reactant | 2-picolic acid | 30.3 mmol, 3.73 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 2-amino-4-methoxybenzophenone | 30.3 mmol, 5.0 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OC | C14H13NO2
reactant | POCl3 | 45.4 mmol, 3.7 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | Pyridine-2-carboxylic acid (2-acetyl-5-methoxy-phenyl)-amide | 7.67 g, 93% | C(C)(=O)C1=C(C=C(C=C1)OC)NC(=O)C1=NC=CC=C1 | C15H14N2O3
